US09108921B2
Step B: (E)-tert-butyl 4-acetoxy-4-(4,4,4-trifluorobut-1-enyl)piperidine-1-carboxylate (44C)
A flame-dried vial equipped with a magnetic stir bar was charged with Togni reagent (2.0 g, 7.0 mmol) and CuI (34 mg, 0.35 mmol), and was sealed with a septum. The vial was evacuated and backfilled with N2 for three times. MeOH (8 mL) and tert-butyl 4-acetoxy-4-allylpiperidine-1-carboxylate (4.5 g, 14 mmol) were then added via syringe. The vial was kept at 80° C. for 2 h. The reaction mixture was concentrated in vacuo and the crude residue was purified by a standard method to afford the product (2.1 g). 1H NMR (400 MHz, CHLOROFORM-d) δ: 1.47 (s, 9 H), 1.66-1.77 (m, 2H), 2.00-2.07 (m, 3 H), 2.22 (d, J=13.43 Hz, 2 H), 2.85 (qdd, J=10.61, 10.61, 10.61, 7.25, 1.21 Hz, 2 H), 3.11 (t, J=11.82 Hz, 2 H), 3.81 (br. s., 2 H), 5.58 (dt, J=15.98, 7.19 Hz, 1 H), 6.05 (d, J=16.12 Hz, 1 H).

reactant | Togni reagent | 7.0 mmol, 2.0 g | CC1(C2=CC=CC=C2I(O1)C(F)(F)F)C | C10H10F3IO
reactant | tert-butyl 4-acetoxy-4-allylpiperidine-1-carboxylate | 14 mmol, 4.5 g | C(C)(=O)OC1(CCN(CC1)C(=O)OC(C)(C)C)CC=C | C15H25NO4
catalyst | CuI | 0.35 mmol, 34 mg | [Cu]I
solvent | MeOH | 8 mL | CO | CH4O
product | (E)-tert-butyl 4-acetoxy-4-(4,4,4-trifluorobut-1-enyl)piperidine-1-carboxylate | 2.1 g | C(C)(=O)OC1(CCN(CC1)C(=O)OC(C)(C)C)\C=C\CC(F)(F)F | C16H24F3NO4
